US05455273
e) trans-4-(3-tert.butoxycarbonyl-methylaminomethyl-phenyl)-N-(4-chlorobenzoyl)-N-methylcyclohexylamine
from trans-4-(3-tert.butoxycarbonyl-methylaminomethylphenyl)-N-methylcyclohexylamine and 4-chlorobenzoylchloride. Melting point: 134°-135° C.

reactant | trans-4-(3-tert.butoxycarbonyl-methylaminomethylphenyl)-N-methylcyclohexylamine | C(C)(C)(C)OC(=O)C=1C(=C(C=CC1)[C@@H]1CC[C@H](CC1)NC)CNC | C20H32N2O2
reactant | 4-chlorobenzoylchloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | trans-4-(3-tert.butoxycarbonyl-methylaminomethyl-phenyl)-N-(4-chlorobenzoyl)-N-methylcyclohexylamine | C(C)(C)(C)OC(=O)C=1C(=C(C=CC1)[C@@H]1CC[C@H](CC1)N(C)C(C1=CC=C(C=C1)Cl)=O)CNC | C27H35ClN2O3
